Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
- ___ midline placed
- ___ cholangiogram revealed patent biliary ducts, the 12 
___ internal external PTBD cathether was exchanged

 
History of Present Illness:
HPI:  

___ male with history of DMII, BPH, recurrent C. diff,
and inoperable cholangiocarcinoma s/p gemcitabine/cisplatin and
Cyberknife in ___ complicated by recurrent biliary
obstruction/cholangitis with MDR E. coli and liver abscesses 
with
multiple episodes of acute on chronic cholangitis, biliary 
sepsis
and multiple ERCPs/PTBDs requiring biliary catheter exchange,
last done on ___, on suppressive Bactrim who presents with
fever of 101.2

He reports a fever yesterday evening to 101.2 while at home. His
PTBD tube had been capped and his wife uncapped this and noted
blood output. 

In the ED:
- Initial vital signs were notable for: Temp. 99.6, fever to
100.1, Hr 83, BP 126/62, RR 16, 97% RA
- Exam notable for: mild RUQ tenderness 
- Labs were notable for: WBC 5.4, platelets 66, Na 134, Bun 24,
Cr 0.8, ALT 56, AST 60, T bili 0.6, normal lactate, negative UA 
- Studies performed include: RUQ US that shoed patent main 
portal
vein stent. CT abdomen and pelvis with stable appearing biliary
stents from prior. 
- Patient was given: IV meropenum and 7.5 mg of mirtazapine.
Urine and blood cultures obtained.  
- Consults: ___ team was consulted with recommendation to admit
with plan for PTBD exchange, cholangiogram and possible
intervention. They recommended keeping the patient NPO

Vitals on transfer remained stable. 

Upon arrival to the floor, the patient states that he feels
"miserable." He notes that development of fever last evening to
101.3 at home with associated abdominal pain, nausea, and
non-bloody emesis. He endorses a non-productive cough, but 
denies
shortness of breath. He has chronic urinary frequency with slow
initiation of his urinary stream since the time of his TURP in
the past. He states these symptoms are stable. She denies any
diarrhea. His last bowel movement was at 2 ___ yesterday. He has
been taking all of his Bactrim as prescribed without any missed
doses, but believes he vomited up the pill yesterday at the time
of his emesis. He is currently not having any abdominal pain. 

Review of Systems:  
(+) Per HPI and otherwise negative. 
 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools. He states
that over the summer, he was more fatigued than usual with
burping. He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen. He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits. During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct. He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4.
- ___: Repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point. During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma. Cytology was suspicious for
carcinoma.
- ___: Repeat ERCP with exchange of plastic for metal stent.
- ___: Start of cisplatin/gemcitabine cycle 1
- ___ Seen in ED for BPV 
- ___: Cycle ___: Hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enterococcus.
- ___: Cycle 3, last dose ___ and ___: Hospitalized for GNR bacteremia and
C. diff and then again for delirium, discharged home.
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___: Completed CK. Radiation and resume C5D1 Gem/Cis. 
Day
15 held due to low counts and post-hospitalization. 
- ___: Admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: Start of C6 with dose reduced gemcitabine to 
800mg/m2.
- ___: Start of C7 with dose reduced gemcitabine to  
750mg/m2. Also received on ___.
- ___: Received last dose, C8D1.
- ___ and ___: Hospitalized for biliary sepsis s/p perc 


chole tube.
- ___: Hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization.
- ___: Admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced.
- ___: Admitted with replacement of his percutaneous
biliary drain on ___ due to fever. None of his blood
cultures returned positive during that admission.
- ___ and ___: Visited ED with fevers, chills abdominal
pain. 
- ___: Admitted with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- ___: Admitted with cholangitis, ERCP deferred 
given
prior hemobilia. In the absence of an obvious target for
decompression, ___ was not consulted for consideration of biliary
drain replacement. Blood and urine cultures were negative. After
discussion with the infectious disease team, the decision was
made to treat for acute cholangitis with a 10d course of
meropenem 500mg q6h (___), followed by initiation of
suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 1
tab daily.
- ___: Admitted with cholangitis and associated ESBL
E. coli bacteremia; treated with ERCP ___ with clean out of his
metal stents and 14d meropenem.
- ___: Admitted for fever, cholangitis treated with
ertapenem at discharge and then after that transitioned to
delafloxacin.
- ___: Admitted for bleeding after ERCP.
- ___: Admitted for cholanigitis with E. coli
bacteremia complicated by acute blood loss during CBD balloon
sweep with ERCP secondary to likely portobiliary fistula s/p
portal vein stenting with ___. Treated with 14-day course of
ertapenem.
- ___: Admitted for recurrent cholangitis with MDR
E. Coli bacteremia and discharged on ceftazadime/avibactam and
flagyl. Found to have portal venous thrombus and started on
apixaban.
- ___: Admitted for fever found to have liver
microabscesses s/p right-sided PTBD placement and discharged on
ceftaz-avi and flagyl with plan for 4-week course.
- ___: Admitted with fevers and found to have MDR E.
coli bacteremia in the setting of cholangitis from a clogged 
PTBD
s/p PTBD exchange and discharged on ertapenem/tigecycline.

PAST MEDICAL/SURGICAL HISTORY:  
- Cholangiocarcinoma, as above
- Biliary obstruction c/b cholangitis
- Rosacea
- BPH
- Migraines controlled on Atenolol
- Arthritis of the knees and shoulder on the right
- C.diff x3
- Diabetes Mellitus diagnosed ___
- Hypertension
- Mild OSA not on CPAP
- GERD

 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.
 
Physical Exam:
VITAL SIGNS: T 98.5 PO BP: 111/73 HR: 70 RR: 20
O2 sat: 96% O2 delivery: RA 
General:  NAD; ready to go
HEENT:  MMM
CV:  RR, NL S1S2 no S3S4, no MRG
PULM:  CTAB, respirations unlabored 
ABD:  BS+ SNT/ND PTBD draining clear fluid 
LIMBS:  No ___, WWP
SKIN:  No rashes on extremities
NEURO:  Speech fluent, generalized weakness
PSYCH: AOx3 
ACCESS: RUE midline with small area of redness around insertion, 
LUE phlebitis resolved
 
Pertinent Results:
___ 05:50AM BLOOD WBC-3.7* RBC-4.47* Hgb-11.8* Hct-37.4* 
MCV-84 MCH-26.4 MCHC-31.6* RDW-16.8* RDWSD-51.0* Plt ___
___ 05:50AM BLOOD Glucose-123* UreaN-17 Creat-0.7 Na-142 
K-4.4 Cl-103 HCO3-24 AnGap-15
___ 05:50AM BLOOD ALT-76* AST-38 LD(LDH)-149 AlkPhos-385* 
TotBili-0.4
___ 07:14AM BLOOD ALT-33 AST-25 AlkPhos-163* TotBili-1.1
___ 05:50AM BLOOD Calcium-8.7
___ 05:45AM BLOOD Albumin-3.3* Calcium-8.9 Phos-4.0 Mg-2.1
___ 04:38AM BLOOD calTIBC-286 VitB12-888 Folate-14 
Ferritn-71 TRF-220
___ 04:38AM BLOOD %HbA1c-5.8 eAG-120
___ 04:38AM BLOOD TSH-1.___r ___ is a ___ w/ DMII, recurrent C. diff, 
cholangiocarcinoma s/p gemcitabine/cisplatin and CK in ___ now 
without any residual cancer but has had recurrent biliary 
obstruction/cholangitis with MDR E. coli and liver abscesses 
with multiple episodes of acute on chronic cholangitis, biliary 
sepsis and multiple ERCPs/PTBDs requiring biliary catheter 
exchange, last ___, on suppressive Bactrim who p/w 101.2F 
found to have klebsiella and ecoli bacteremia and hepatic 
abscesses.

# Sepsis with Klebsiella/ MDR ecoli bacteremia
Found to have small abscess on imaging, likely the source of his 
bacteremia. Too small to drain. He had a cholangiogram which 
revealed no e/o obstruction and had an exchange of his PTBD on 
___ with good but slowed output. His existing biliary stents 
per ERCP cannot be exchanged. Unfortunately due to his anatomy 
and requiring biliary drains, he is at risk for recurrent 
infections. He improved on Meropenem. ID saw him and advised a 4 
wk course of Ertapenem at home. 
- cont Ertapenem at home 

# Deconditioning: ___ consulted, rec'd ___ at home

# Knee Pain
Chronic since high school basketball. Recently saw ___ outpatient
for this. suspect OA. 
- capscacin cream trial for the knee pain caused his skin to 
burn
- cont lidocaine patches pro, found these helpful 
- cont ___

# Delirium
Noted on this and prior hospitalizations. Likely from
insomnia, benzo use, abx, prolonged hospitalization, age,
immobility, IV meds, IV pole. Noted to have cognitive slowing by
PCP. His delirium improved significantly as his infection 
cleared. 

# Severe Insomnia
Chronic debilitating issue but seems to do well with decreasing
pm disruptions and giving him mirtazapine and ramelteon. 
Would avoid benzos and seems to have caused delirium. 

# Blood from PTBD
Had bright red blood from the drain on ___ that spontaneously
resolved. Went to ___ for cholangio and no e/o bleeding nor 
fistula noted. 

# Poor venous access
- s/p midline on ___

# Cholangiocarcinoma
Stage IV inoperable cholangiocarcinoma. He follows 
with Dr. ___ received treatment for his cancer 
including gemcitabine + cisplatin as well as XRT in ___.  CT
abdomen shows 2 new hypodense lesions in the right hepatic lobe
likely secondary to abscess. Dr. ___ noted on this admission
that he is cancer free
 
# Hx of portal vein thrombus
No longer on anticoagulation due to TCP. No evidence of portal
vein thrombus on US imaging. 

# Anxiety
On sertraline taper as ineffective
- last dose stertaline 25 mg ___
- started mirtazapine ___ at 7.5, titrate up in 2 wks
 
# Thrush: started nystatin
# Flu exposure: prophylactic Tamiflu started ___, cont x 10 
days 
# Severe malnutrition: seen by nutrition
# Thrombocytopenia: chronic, attributed to chemo
# Anemia: likely from chemo, stable
# BPH s/p TURP: cont finasteride
# GERD: cont ppi
# T2DM: diet controlled 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dronabinol 5 mg PO DAILY 
2. Finasteride 5 mg PO DAILY 
3. FoLIC Acid 1 mg PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
5. Pantoprazole 40 mg PO Q24H 
6. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
7. Sertraline 25 mg PO DAILY 
8. Sulfameth/Trimethoprim DS 1 TAB PO BID 
9. Ursodiol 300 mg PO BID 
10. melatonin 10 mg oral QHS 

 
Discharge Medications:
1.  Ertapenem Sodium 1 g IV ONCE Duration: 1 Dose 
daily x 4 wks 
RX *ertapenem 1 gram 1 gm IV once a day Disp #*28 Vial 
Refills:*0 
2.  Lidocaine 5% Patch 2 PTCH TD QPM knee pain 
RX *lidocaine 5 % apply 2 patches daily to knee daily, 12 hours 
on, 12 hours off Disp #*30 Patch Refills:*0 
3.  Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth once a day Disp #*28 
Tablet Refills:*0 
4.  Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day 
Refills:*0 
5.  OSELTAMivir 75 mg PO DAILY Duration: 9 Days 
RX *oseltamivir 75 mg 1 capsule(s) by mouth once a day Disp #*9 
Capsule Refills:*0 
6.  Dronabinol 5 mg PO DAILY  
7.  Finasteride 5 mg PO DAILY  
8.  FoLIC Acid 1 mg PO DAILY  
9.  melatonin 10 mg oral QHS  
10.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
11.  Pantoprazole 40 mg PO Q24H  
12.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
13.  Ursodiol 300 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Klebsiella and E. Coli Bacteremia
Hepatic Microabscesses 
Acute Hemorrhage from 
Knee Pain
Insomnia
History of Cholangiocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dr. ___,

___ were admitted to the hospital and found to have sepsis with 
Klebsiella and multi drug resistant ecoli infection in your 
blood. ___ were treated with IV antibiotics and had an exchange 
of your external biliary drain with a good response. Infectious 
disease evaluated ___ in the hospital and advised that ___ go 
home on four weeks of IV antibiotic called Ertapenem. They will 
see ___ in clinic and will discuss your antibiotic course and 
whether ___ need a repeat scan of your liver. They will also 
check your labs every week while ___ are on Ertapenem. Please 
follow up with your doctors as ___. Wishing ___ a healthy 
and happy holiday,

Your ___ Team
 
Followup Instructions:
___